US07112594B2
N-(3-cyano-4-piperidinophenyl)benzo[b]thiophene-2-carboxamide
By the reaction and treatment in the same manner as in Example 6 using benzo[b]thiophene-2-carboxylic acid (1.7 g) and 5-amino-2-piperidinobenzonitrile (2.0 g), the title compound (1.0 g) was obtained. melting point: 219-245° C.

reactant | benzo[b]thiophene-2-carboxylic acid | 1.7 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | 5-amino-2-piperidinobenzonitrile | 2.0 g | NC=1C=CC(=C(C#N)C1)N1CCCCC1 | C12H15N3
product | N-(3-cyano-4-piperidinophenyl)benzo[b]thiophene-2-carboxamide | 1.0 g | C(#N)C=1C=C(C=CC1N1CCCCC1)NC(=O)C1=CC2=C(S1)C=CC=C2 | C21H19N3OS
